US05705499
2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(phenylamino)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The 2-chloro-5,11-dihydro-11-ethyl-8-formyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.50 g, 0.16 mmol) was dissolved/suspended in methanol (2 mL) and treated with sodium cyanoborohydride (0.030 g, 0.47 mmol) followed by aniline (0.043 mL, 4.7 mmol). The mixture was stirred for 5 minutes then acetic acid (0.020 mL, 0.35 mmol) was added. After an additional 3 hours at room temperature the mixture was made alkaline with 15% sodium hydroxide and the white suspension was extracted with dichloromethane (3×10 mL). The combined organics were washed with brine, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography then chromatotron (hexane to 1:1 hexanes/ethyl acetate gradient) to give the title compound (0.031 g, 50%), m.p. 79°-80° C.

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-formyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.16 mmol, 0.50 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C=O)=O)C | C15H13ClN4O2
reactant | sodium cyanoborohydride | 0.47 mmol, 0.030 g | C(#N)[BH3-].[Na+]
reactant | aniline | 4.7 mmol, 0.043 mL | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 0.35 mmol, 0.020 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 2 mL | CO | CH4O
product | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(phenylamino)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.031 g, 50% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CNC3=CC=CC=C3)=O)C | C21H20ClN5O
